US07867980B2
3-(4-Bromophenyl)-1-methylpyrrolidine
Formalin (0.0452 ml, 0.557 mmol), 0.0319 ml (0.557 mmol) of acetic acid, and 118 mg (0.557 mmol) of triacetoxy borohydride hydride were added to a solution of 42 mg (0.186 mmol) of 3-(4-bromophenyl)pyrrolidine, synthesized in the same manner as in Reference Example 1, in chloroform-ethanol 3:1 (2 ml), and the mixture was stirred at room temperature for 40 min. The reaction solution was diluted with ethyl acetate, and the diluted solution was washed with a 10% aqueous sodium hydrogencarbonate solution. The organic layer was dried over anhydrous sodium sulfate, was filtered, and was then concentrated under the reduced pressure to give 43 mg (yield 97%) of the title compound.

reactant | Formalin | 0.557 mmol, 0.0452 ml | C=O | CH2O
reactant | acetic acid | 0.557 mmol, 0.0319 ml | C(C)(=O)O | C2H4O2
reactant | triacetoxy borohydride hydride | 0.557 mmol, 118 mg | [H-].C(C)(=O)O[BH-](OC(C)=O)OC(C)=O
reactant | 3-(4-bromophenyl)pyrrolidine | 0.186 mmol, 42 mg | BrC1=CC=C(C=C1)C1CNCC1 | C10H12BrN
solvent | chloroform ethanol | 2 ml | C(Cl)(Cl)Cl.C(C)O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(4-Bromophenyl)-1-methylpyrrolidine | 43 mg, yield 97% | BrC1=CC=C(C=C1)C1CN(CC1)C | C11H14BrN
